US05910506
Synthesis of 5-(3,5-dichlorophenylthio)-2-hydroxymethyl-4-isopropyl-1-(2-thienylmethyl)-1H-imidazole hydrochloride (Compound I-126).
To dimethylformamide was added 67 mg of 2-(chloromethyl)thiophene and 152 mg of potassium iodide under ice-cooling, the mixture was allowed to warm up to room temperature and stirred for 20 minutes. Then, 200 mg of 5-(3,5-dichlorophenylthio)-4-isopropyl-2-(p-methoxybenzyloxymethyl)-1H-imidazole (101b)was added, followed by addition of 126 mg of potassium carbonate. Then, the mixture was warmed up to 50° C., and allowed to react for 6 hours. After completion of the reaction, the mixture was diluted with water, extracted with diethyl ether, the extract was dried over sodium sulfate, and the solvent was distilled off under reduced pressure. To thus-obtained oil were added 5 ml of ethanol and 10 ml of 36% hydrochloric acid, and the mixture was stirred at 90° C. for 2 hours. After completion of the reaction, the solvent was distilled off under reduced pressure. The crystals were washed with diethyl ether, filtered, and 170 mg of Compound I-126 was obtained (yield 83%).

reactant | 2-(chloromethyl)thiophene | 67 mg | ClCC=1SC=CC1 | C5H5ClS
reactant | potassium iodide | 152 mg | [I-].[K+]
reactant | 5-(3,5-dichlorophenylthio)-4-isopropyl-2-(p-methoxybenzyloxymethyl)-1H-imidazole | 200 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(N=C(N1)COCC1=CC=C(C=C1)OC)C(C)C | C21H22Cl2N2O2S
reactant | potassium carbonate | 126 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(3,5-dichlorophenylthio)-2-hydroxymethyl-4-isopropyl-1-(2-thienylmethyl)-1H-imidazole hydrochloride | 170 mg, yield 83% | Cl.ClC=1C=C(C=C(C1)Cl)SC1=C(N=C(N1CC=1SC=CC1)CO)C(C)C | InChI=1S/C18H18Cl2N2OS2.ClH/c1-11(2)17-18(25-15-7-12(19)6-13(20)8-15)22(16(10-23)21-17)9-14-4-3-5-24-14;/h3-8,11,23H,9-10H2,1-2H3;1H
